US08426587B2
Procedure H: (E)-4-(4-amino-2-fluorobut-2-enyloxy)-N-cyclohexylbenzamide hydrochloride
To a stirred solution of (E)-tert-butyl 4-(4-(cyclohexyl-carbamoyl)phenoxy)-3-fluorobut-2-enylcarbamate (1.25 g, 3.1 mmol) in dichloromethane (54 mL) was added trifluoroacetic acid (6 mL). The reaction was then stirred at room temperature for 3 hours at which time TLC analysis showed no remaining starting material. Evaporation of the solvent and the remaining acid afforded a brown gum. Aqueous HCl (2 M; 5 mL) was then added and the reaction stirred for 40 minutes, upon which point an off-white solid had precipitated out of solution. Filtered, washing with ice cold aqueous HCl (1 M; 3 mL) and dried in a 60° C. oven to afford the title compound as an off-white powder (0.89 g, 85%); m.p.=210-212° C.; 1H-NMR (400 MHz, (CD3)2SO): δppm: 1.11 (1H, m), 1.15-1.33 (4H, m), 1.59 (1H, m), 1.70-1.77 (4H, m), 3.59 (2H, d, J 8.1 Hz), 3.71 (1H, m), 4.87 (2H, d, J 19.8 Hz), 5.52 (1H, dt, J 18.9, 7.8 Hz), 7.01 (2H, d, J 7.9 Hz), 7.83 (2H, d, J 7.9 Hz), 7.97-8.10 (3H, br s, NHs).

reactant | (E)-tert-butyl 4-(4-(cyclohexyl-carbamoyl)phenoxy)-3-fluorobut-2-enylcarbamate | 3.1 mmol, 1.25 g | C1(CCCCC1)NC(=O)C1=CC=C(OC\C(=C/CNC(OC(C)(C)C)=O)\F)C=C1 | C22H31FN2O4
reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | 2 M, 5 mL | Cl | ClH
solvent | dichloromethane | 54 mL | ClCCl | CH2Cl2
product | (E)-4-(4-amino-2-fluorobut-2-enyloxy)-N-cyclohexylbenzamide hydrochloride | 0.89 g, 85% | Cl.NC/C=C(\COC1=CC=C(C(=O)NC2CCCCC2)C=C1)/F | InChI=1S/C17H23FN2O2.ClH/c18-14(10-11-19)12-22-16-8-6-13(7-9-16)17(21)20-15-4-2-1-3-5-15;/h6-10,15H,1-5,11-12,19H2,(H,20,21);1H/b14-10+;
